US06965040B1
A solution of hydrazine (0.32 mL, 10.25 mmol) in DCM (20 mL) was added dropwise to a solution of 2-(2-nitrophenyl)propyl chloroformate (5.0 g, 20 mmol) in methylene chloride (25 mL) over a period of 30 min. The reaction mixture was stirred at room temperature for an additional 15 min. The solvent was evaporated and the residue was purified on a silica gel column. Elution of the column with 20% ethyl acetate in hexanes gave 1.46 g (3.26 mmol, 32% yield) of di-(2-(2-nitrophenyl)propoxycarbonyl) hydrazine. 1H-NMR (300 MHz, DMSO-d6): δ 9.06-8.73 (d, 1 H, CONH), 7.84 (d, J=7.8 Hz, 1 H, Ar—H), 7.63 (m, 2 H, Ar—H), 7.48 (m, 1 H, Ar—H), 4.20 (m, 2 H, CH2), 3.39 (m, 1 H, CH), 1.26 (d, J=6.9 Hz, 3 H, CH3). 13C-NMR (75 MHz, DMSO-d6): δ 156.19 (OCOR), 149.85 (C ipso to NO2), 136.53 (C ipso to CH(CH3)CH2OCOR), 132.91 (C para to NO2), 128.52 (C para to CH(CH3)CH2OCOR), 127.76 (C ortho to CH(CH3)CH2OCOR), 123.77 (C ortho to NO2), 67.86 (CH2OCOR), 33.30 (CH), 17.99 (CH3). Mass analysis (MALDI-TOF): calculated for C20H22N4O8 446.42, found 446.24 (C20H22N4O8Na 469.38 is the major peak). TLC: 5% methanol in chloroform, Rf=0.7.

reactant | hydrazine | 10.25 mmol, 0.32 mL | NN | H4N2
reactant | 2-(2-nitrophenyl)propyl chloroformate | 20 mmol, 5.0 g | ClC(=O)OCC(C)C1=C(C=CC=C1)[N+](=O)[O-] | C10H10ClNO4
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | di-(2-(2-nitrophenyl)propoxycarbonyl) hydrazine | 3.26 mmol, 1.46 g, 32% yield | [N+](=O)([O-])C1=C(C=CC=C1)C(COC(=O)NNC(=O)OCC(C)C1=C(C=CC=C1)[N+](=O)[O-])C | C20H22N4O8
